US07476665B2
Step E. 3-piperidin-4-yl-3,4-dihydropyrido[3,2-d]pyrimidin-2(1H)-one
tert-butyl 4-[1-(2,4-dimethoxybenzyl)-2-oxo-1,4-dihydropyrido[3,2-d]pyrimidin-3(2H)-yl]piperidine-1-carboxylate (0.10 g, 0.21 mmol) was dissolved in trifluoroacetic acid (5 mL) and stirred overnight. The reaction concentrated to afford the bisTFA salt of the title compound (0.048 g). MS 233.2 (M+1).

reactant | tert-butyl 4-[1-(2,4-dimethoxybenzyl)-2-oxo-1,4-dihydropyrido[3,2-d]pyrimidin-3(2H)-yl]piperidine-1-carboxylate | 0.21 mmol, 0.10 g | COC1=C(CN2C(N(CC3=C2C=CC=N3)C3CCN(CC3)C(=O)OC(C)(C)C)=O)C=CC(=C1)OC | C26H34N4O5
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-piperidin-4-yl-3,4-dihydropyrido[3,2-d]pyrimidin-2(1H)-one | 0.048 g | N1CCC(CC1)N1C(NC2=C(C1)N=CC=C2)=O | C12H16N4O
